US08754114B2
Step 1: N-(3-{5-[1-(1-ethoxyethyl)-1H-pyrazol-4-yl]-1H-benzimidazol-1-yl}phenyl)-N′-(2,2,2-trifluoroethyl)urea
This compound was prepared by using procedures analogous to those described for the synthesis of Example 21 (step 3) starting from N-{3-[5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-1H-benzimidazol-1-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea (prepared from the procedure for Example 21, step 4) and 1-(1-ethoxyethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (Adesis, Cat. No. 9-243), LCMS (M+H)+: m/z=473.1.

reactant | N-{3-[5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-1H-benzimidazol-1-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | N1CCC(CC1)N1N=CC(=C1)C1=CC2=C(N(C=N2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)C=C1 | C24H24F3N7O
reactant | 1-(1-ethoxyethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C)OC(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O3
product | N-(3-{5-[1-(1-ethoxyethyl)-1H-pyrazol-4-yl]-1H-benzimidazol-1-yl}phenyl)-N′-(2,2,2-trifluoroethyl)urea | C(C)OC(C)N1N=CC(=C1)C1=CC2=C(N(C=N2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)C=C1 | C23H23F3N6O2
